US04039543
A suspension of 7.6 g. of sodium borohydride and 12.8 g. of 3',5'-bis-(methylamino)-2-methylsulfonylacetophenone in 200 ml. of ethanol was stirred for 18 hours at 25° C. After the addition of 50 ml. of water, the solution was evaporated to dryness in vacuo. The residue was heated to boiling in 300 ml. of ethyl acetate. The insoluble material was separated and the filtrate evaporated to dryness in vacuo. Recrystallization of the residue from ethanol gave 3,5-bis-(methylamino)- α -[(methylsulfonyl)methyl]benzyl alcohol, having a melting point of 106° C.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 3',5'-bis-(methylamino)-2-methylsulfonylacetophenone | CNC=1C=C(C=C(C1)NC)C(CS(=O)(=O)C)=O | C11H16N2O3S
solvent | ethanol | C(C)O | C2H6O
product | 3,5-bis-(methylamino)- α -[(methylsulfonyl)methyl]benzyl alcohol | CNC=1C=C(C(CS(=O)(=O)C)O)C=C(C1)NC | C11H18N2O3S
